datasets/10k__Tet_Int.csv
SMILES Labelled
"CC[NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C([H])[NH]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]CC)[NH][CH](CC)C([H])[CH]([H])[NH]1 10=20;20,21=21"
"C[NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH](C7=CC=CC=C7)C(C)[CH](C)[NH]1.[Cl-]>>[Cl-].CC[NH+:21]=[C:20]2[NH][CH](C7=CC=CC=C7)[CH](C)C(C)[NH]2.C[NH:10][H] 21=20;20,10=10"
"[H][NH+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](CC)C([H])[CH](CC)[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C(CC)[NH]2.[H][NH:10][H] 21=20;20,10=10"
"CCCCCCN([C:20]([O-:10])(OC)[O:21]C)C1=CC=CC=C1>>CCCCCCN([C:20](=[O:10])OC)C1=CC=CC=C1.[O-:21]C 10=20;20,21=21"
"[H][O+:10](C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][H])[S]CC.[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[O][C:20]([S]CC)=[O+:21][H] 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH]([H])C([H])[CH](CC)[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C(CC)[NH]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"CCN([C:20](=[O:10])OC)CC.[O-:21]C>>CCN([C:20]([O-:10])(OC)[O:21]C)CC 21=20;20,10=10"
"CN([C:20]1(OC(C([O:21]1)C1=CC=CC=C1)C)[O-:10])C>>CN([C:20](=[O:10])OC(C([O-:21])C1=CC=CC=C1)C)C 10=20;20,21=21"
"C1=CC=CC=C1[O:10][C:20]([O-:21])(O[H])OCCCCCC>>[O:21]=[C:20](O[H])OCCCCCC.[O-:10]C1=CC=CC=C1 21=20;20,10=10"
"[O-:21][C:20]1([H])C(O)C([H])C([H])C(CCC)[O+:10]1([K])>>[O:10]([K])C(CCC)C([H])C([H])C(O)[C:20]([H])=[O:21] 21=20;20,10=10"
"CCC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]C1=CC=CC=C1)C)CCCCCC>>CCC1C(C(O[C:20](=[O:10])N1CCCCCC)C)CCCCCC.[O-:21]C1=CC=CC=C1 10=20;20,21=21"
"CC[S+:10]([H])[C:20]([O:21][H])([S]CC)[S]C7=CC=CC=C7.[Cl-]>>[Cl-].CC[S:10][H].[H][O+:21]=[C:20]([S]CC)[S]C7=CC=CC=C7 21=20;20,10=10"
"[OH:10]C(C)C(C)C([C:20]([H])=[OH+:21])[H]>>[OH:21][C:20]1([H])[OH+:10]C(C)C(C)C1[H] 10=20;20,21=21"
"C[S:10][H].C[O+:21]=[C:20]([O]C8=CC=CC=C8)[O][H].[Cl-]>>[Cl-].C[S+:10]([H])[C:20]([O:21]C)([O]C8=CC=CC=C8)[O][H] 10=20;20,21=21"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1CC)CC)[H].[O-:21]CCCCCC>>C1=CC=CC=C1C1C(C(O[C:20](N1CC)([O-:10])[O:21]CCCCCC)CC)[H] 21=20;20,10=10"
"C1=CC=CC=C1C1C(O[C:20](=[O:10])N1CCCCCC)[H].[O-:21]CC>>C1=CC=CC=C1C1C(O[C:20](N1CCCCCC)([O-:10])[O:21]CC)[H] 21=20;20,10=10"
"[H][NH:10]C(C9=CC=CC=C9)C(CC)[O][C:20]([NH][H])=[NH+:21]C6=CC=CC=C6.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C(CC)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH][H] 10=20;20,21=21"
"CCN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)C)C1=CC=CC=C1)[O-:10])CC>>CCN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)C)C1=CC=CC=C1)CC 10=20;20,21=21"
"[H][O:10]C(CC)C(C)C(C)[O][C:20]([O]C7=CC=CC=C7)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C)C(C)[O]1)[C:20]1([NH:21]CC)[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][NH+:10](C(CC)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]C6=CC=CC=C6)[NH][H].[Cl-]>>[Cl-].[H][NH:10]C(CC)C([H])C(C8=CC=CC=C8)[O][C:20]([NH][H])=[NH+:21]C6=CC=CC=C6 21=20;20,10=10"
"[H][O+:21]=[C:20]2[S]C(C7=CC=CC=C7)C(CC)[O]2.C9=CC=CC=C9[O:10][H].[Cl-]>>[Cl-].C9=CC=CC=C9[O+:10]([H])[C:20]1([O:21][H])[S]C(C7=CC=CC=C7)C(CC)[O]1 10=20;20,21=21"
"[O-:21][C:20]1([H])[O:10]C([H])C(C)=C1C>>[O-:10]C([H])/C(C)=C([C:20]([H])=[O:21])/C 21=20;20,10=10"
"[H][NH+:10](C(CC)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]CC)[NH]C.[Cl-]>>[Cl-].[H][NH:10]C(CC)C(C)C(C8=CC=CC=C8)[O][C:20]([NH]C)=[NH+:21]CC 21=20;20,10=10"
"CCC1C(C(O[C:20](=[O:10])N1[H])CC)CC.[O-:21]C>>CCC1C(C(O[C:20](N1[H])([O-:10])[O:21]C)CC)CC 21=20;20,10=10"
"CC1C(C(O[C:20](=[O:10])N1CCCCCC)CCCCCC)C.[O-:21]CCCCCC>>CC1C(C(O[C:20](N1CCCCCC)([O-:10])[O:21]CCCCCC)CCCCCC)C 21=20;20,10=10"
"[H][O:10]C(C)C([H])C([H])[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(C)C([H])C([H])[NH]1)[C:20]1([NH:21]CC)[O]C7=CC=CC=C7 10=20;20,21=21"
"CCCCCCC1C(O[C:20](N1[H])([O-:10])[O:21]CCCCCC)CC>>CCCCCCC1C(O[C:20](=[O:10])N1[H])CC.[O-:21]CCCCCC 10=20;20,21=21"
"[O:20]=[C:21](OCCCCCC)OCC.[H][O:10][Li]>>[H][O+:10]([Li])[C:21]([O-:20])(OCCCCCC)OCC 10=21;21,20=20"
"[H][S+:10]([H])[C:20]1([O:21][H])[O]C(C)C([H])[O]1.[Cl-]>>[Cl-].[H][O+:21]=[C:20]2[O]C(C)C([H])[O]2.[H][S:10][H] 21=20;20,10=10"
"[O:10]([K])C(CC)/C(C)=C([C:20](OC)=[O:21])/C>>[O-:21][C:20]1(OC)[O+:10]([K])C(CC)C(C)=C1C 10=20;20,21=21"
"[H][NH+:10](C([H])C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C)[NH]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][NH:10]C([H])C([H])C(C8=CC=CC=C8)[NH][C:20]([NH]C7=CC=CC=C7)=[NH+:21]C 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[NH]C(C7=CC=CC=C7)C(C)[O]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH]C(C7=CC=CC=C7)C(C)[O]1 10=20;20,21=21"
"[O-:21][C:20]1(OCC)C(O)C(O)C(C)C([H])[O:10]1>>[O-:10]C([H])C(C)C(O)C(O)[C:20](OCC)=[O:21] 21=20;20,10=10"
"CC1C(C(O[C:20](N1[H])([O-:10])[O:21]CCCCCC)C1=CC=CC=C1)[H]>>CC1C(C(O[C:20](=[O:10])N1[H])C1=CC=CC=C1)[H].[O-:21]CCCCCC 10=20;20,21=21"
"[H][NH+:21]=[C:20]2[O][CH](CC)[CH](C)C(C8=CC=CC=C8)[O]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21][H])[O][CH](CC)C(C)[CH](C8=CC=CC=C8)[O]1 10=20;20,21=21"
"CC1C(O[C:20](=[O:10])N1CCCCCC)C1=CC=CC=C1.[O-:21]C>>CC1C(O[C:20](N1CCCCCC)([O-:10])[O:21]C)C1=CC=CC=C1 21=20;20,10=10"
